US06743816B2
4-Ethoxy-3-fluorobenzaldehyde
Following a similar procedure to that described in reference example 3, but starting from 3-fluoro-4-hydroxybenzaldehyde instead of 4-hydroxybenzaldehyde and using ethyl iodide instead of 2-iodopropane, the title compound of the example was obtained as an oil (48% yield).

reactant | 3-fluoro-4-hydroxybenzaldehyde | FC=1C=C(C=O)C=CC1O | C7H5FO2
reactant | ethyl iodide | C(C)I | C2H5I
product | 4-Ethoxy-3-fluorobenzaldehyde | C(C)OC1=C(C=C(C=O)C=C1)F | C9H9FO2
